US08426420B2
ii) 4-Amino-piperidine-1-carboxylic acid benzyl ester hydrotrifluoroacetate
A solution of 4.4 g 4-tert-butoxycarbonylamino-piperidine-1-carboxylic acid benzyl ester in 90 ml dichloromethane was stirred in the presence of 10 ml TFA for 3 h. The product was obtained after evaporation of the solvent and used without further purification.

reactant | 4-tert-butoxycarbonylamino-piperidine-1-carboxylic acid benzyl ester | 4.4 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)NC(=O)OC(C)(C)C | C18H26N2O4
reactant | TFA | 10 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 90 ml | ClCCl | CH2Cl2
product | 4-Amino-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)N | C13H18N2O2
